US07528155B2
3-Hydroxy-1H-indazole-6-carboxylic acid
2-Aminoterephthalic acid dimethyl ester (5 g, 23.9 mmol) were dissolved in 40 ml of water and 6 ml of conc. hydrochloric acid. At 0° C., sodium nitrite (1.65 g, 23.9 mmol) in 5 ml of water were added dropwise at below 10° C. After 30 min at room temp., sodium sulfite (11.02 g, 87.42 mmol) in 40 ml of water were added. After stirring for 1 h, 10 ml of conc. hydrochloric acid were added, and the mixture was left to stand overnight. It was then heated at 80° C. for 24 h, cooled and adjusted to pH 5.5 with sodium hydroxide solution. The precipitate was filtered off with suction and dried.

reactant | 2-Aminoterephthalic acid dimethyl ester | 23.9 mmol, 5 g | COC(C1=C(C=C(C(=O)OC)C=C1)N)=O | C10H11NO4
reactant | sodium nitrite | 23.9 mmol, 1.65 g | N(=O)[O-].[Na+]
reactant | sodium sulfite | 87.42 mmol, 11.02 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-Hydroxy-1H-indazole-6-carboxylic acid | OC1=NNC2=CC(=CC=C12)C(=O)O | C8H6N2O3
